US08754226B2
A stirred solution of (S)-3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-[1,4′-bipiperidin]-2-one (Preparation G; 18 mg, 0.047 mmol), DIEA (24 μL mL, 0.14 mmol), and 2-chloro-5-ethylpyrimidine (20 mg, 0.14 mmol) in DMF (1 mL) was heated at 100° C. for 2 hours in a sealed tube. The mixture was cooled, diluted with EtOAc (25 mL), washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by preparative TLC (EtOAc/DCM 4:1) to afford (S)-3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-1′-(5-ethylpyrimidin-2-yl)-[1,4′-bipiperidin]-2-one (9 mg, 0.018 mmol, 38% yield) as a white solid. Mass spectrum (apci) m/z=495.1.

reactant | (S)-3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-[1,4′-bipiperidin]-2-one | 0.047 mmol, 18 mg | FC1=C(O[C@@H]2C(N(CCC2)C2CCNCC2)=O)C=C(C(=C1)S(=O)(=O)C)F | C17H22F2N2O4S
reactant | DIEA | 0.14 mmol, 24 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-5-ethylpyrimidine | 0.14 mmol, 20 mg | ClC1=NC=C(C=N1)CC | C6H7ClN2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | (S)-3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-1′-(5-ethylpyrimidin-2-yl)-[1,4′-bipiperidin]-2-one | 0.018 mmol, 9 mg, 38% yield | FC1=C(O[C@@H]2C(N(CCC2)C2CCN(CC2)C2=NC=C(C=N2)CC)=O)C=C(C(=C1)S(=O)(=O)C)F | C23H28F2N4O4S
